US05856014
Reaction between 500 grams of isophorone diisocyanate and 62.6 grams of cyclohexyl isocyanate was effected in the presence of 5.63 grams of a carbodiimidizing catalyst (3methyl-1-phenyl-2-phospholene-1-oxide) at 180° C. for 24 hours, yielding isophorone carbodiimide having a degree of polymerization of 10. The carbodiimide resin was thoroughly pulverized. To 200 grams of this carbodiimide, 200 grams of distilled water having 1 gram of a nonylphenyl nonionic surfactant (Nonypol) dissolved therein was slowly added, obtaining a carbodiimide dispersion (resin concentration 50% by weight).

reactant | isophorone diisocyanate | 500 grams | O=C=NC1CC(CN=C=O)(CC(C1)(C)C)C | C12H18N2O2
reactant | cyclohexyl isocyanate | 62.6 grams | C1(CCCCC1)N=C=O | C7H11NO
product | isophorone carbodiimide | N=C=N.O=C1C=C(CC(C)(C)C1)C | InChI=1S/C9H14O.CH2N2/c1-7-4-8(10)6-9(2,3)5-7;2-1-3/h4H,5-6H2,1-3H3;2-3H
